US04980505
To a solution of 30.5 g (202 mmol) of 3-acetamidophenol in 27.5 g (244 mmol) of 40% dimethylamine and 25 ml of methanol, was added 16.4 g (202 mmol) of 37% formalin. The reaction mixture was placed in an ice bath just after the precipitate formed (ABOUT 15 minutes). The white precipitate was filtered after 15-30 minutes, washed with cold water, and air-dried to give 28.0 g (67% yield) of 5-acetamido-2-[(N,N-dimethylamino)-methyl]phenol.

reactant | 3-acetamidophenol | 202 mmol, 30.5 g | C(C)(=O)NC=1C=C(C=CC1)O | C8H9NO2
reactant | dimethylamine | 244 mmol, 27.5 g | CNC | C2H7N
reactant | formalin | 202 mmol, 16.4 g | C=O | CH2O
solvent | methanol | 25 ml | CO | CH4O
product | 5-acetamido-2-[(N,N-dimethylamino)-methyl]phenol | 28.0 g, 67% yield | C(C)(=O)NC=1C=CC(=C(C1)O)CN(C)C | C11H16N2O2
